US08877759B2
Tetrachlorotitanium (16.85 mL of 1 M, 16.85 mmol) in dichloromethane was added to a solution of ethyl 4-acetylbenzoate (5.4 g, 28.09 mmol) and isopropyl amine (6.644 g, 9.657 mL, 112.4 mmol) in diethyl ether (100 mL) at 0° C. and the reaction mixture allowed to warm to ambient temperature over 15 hours. The reaction mixture was poured into a biphasic mixture of aqueous 0.5 M sodium hydroxide and diethyl ether (4:1, 150 mL) and the layers separated. The aqueous phase was extracted with diethyl ether (×2) and the combined organic phases dried (MgSO4/K2CO3 10:1), filtered and concentrated in vacuo to give ethyl 4-(1-(isopropylimino)ethyl)benzoate as a pale yellow oil (6.7 g, quantitative). 1H NMR (400.0 MHz, DMSO-d6) δ 1.15 (d, J=6.3 Hz, 6H), 1.33 (t, J=7.2 Hz, 3H), 2.25 (s, 3H), 3.88 (sept, 1H), 4.33 (q, J=7.1 Hz, 2H) and 7.91-7.97 (m, 4H) ppm; LC/MS m/z 234.2 [M+H]+.

reactant | ethyl 4-acetylbenzoate | 28.09 mmol, 5.4 g | C(C)(=O)C1=CC=C(C(=O)OCC)C=C1 | C11H12O3
reactant | isopropyl amine | 112.4 mmol, 9.657 mL, 6.644 g | C(C)(C)N | C3H9N
reactant | sodium hydroxide | 0.5 M | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
catalyst | Tetrachlorotitanium | 16.85 mmol, 1 M, 16.85 mL | Cl[Ti](Cl)(Cl)Cl
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | ethyl 4-(1-(isopropylimino)ethyl)benzoate | C(C)(C)N=C(C)C1=CC=C(C(=O)OCC)C=C1 | C14H19NO2
